US07314931B2
a) [2-(9-Oxa-3,7-diazabicyclo[3.3.1]non-3-yl)-ethyl]-carbamic acid tert-butyl ester 2,4,6-trimethylbenzenesulfonic acid salt
[2-(7-Benzyl-9-oxa-3,7-diazabicyclo[3.3.1]non-3-yl)-ethyl]-carbamic acid tert-butyl ester 2,4,6-trimethylbenzenesulfonic acid salt (150 g prepared as described below), 4-methyl-2-pentanol (MIBC) (300 mL) and methanol (300 mL) were combined in a metal hydrogenation vessel. Solid 5% Pd/C catalyst (4.5 g, 61% water wet, Johnson Matthey type 440L) was added. The mixture was then hydrogenated under 2.5 bar of hydrogen pressure and was simultaneously heated to 55° C. Gas uptake measurement showed the reaction to be complete after 2 hours. After cooling to 40° C. the catalyst was removed by filtration through a glass fibre filter paper. The catalyst was washed on the filter with MIBC (300 mL) and the washings added to the main filtrate. Solvent (185 mL) was removed by distillation at atmospheric pressure. More solvent (243 mL) was then removed by reduced pressure (<100 mmHg) distillation. Isopropyl ether (IPE) (1050 mL) was added quickly at 70° C., which caused the temperature to fall to 45° C. An unstirrable precipitate formed in the reaction vessel. The mixture was re-heated and solvent distilled and collected (268 mL). MIBC (150 mL) was added and at 80° C. all material dissolved. The ratio of MIBC:IPE was now approximately 4:5. The solution was allowed to cool and was seeded (86 mg) at 70° C. The reaction was left to cool overnight to ambient temperature. The mixture was cooled to 8° C. and then the solid product collected by filtration. The solid was washed on the filter with IPE (450 mL) and then sucked dry. Further drying in vacuo at 60° C. gave the title compound as a white solid (115.0 g, 91%).

reactant | [2-(7-Benzyl-9-oxa-3,7-diazabicyclo[3.3.1]non-3-yl)-ethyl]-carbamic acid tert-butyl ester 2,4,6-trimethylbenzenesulfonic acid salt | 150 g | CC1=C(C(=CC(=C1)C)C)S(=O)(=O)O.C(C)(C)(C)OC(NCCN1CC2CN(CC(C1)O2)CC2=CC=CC=C2)=O
reactant | 4-methyl-2-pentanol | 300 mL | CC(CC(C)O)C | C6H14O
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | 4.5 g | [Pd] | Pd
solvent | methanol | 300 mL | CO | CH4O
product | [2-(9-Oxa-3,7-diazabicyclo[3.3.1]non-3-yl)-ethyl]-carbamic acid tert-butyl ester 2,4,6-trimethylbenzenesulfonic acid salt | 115.0 g, 91% | CC1=C(C(=CC(=C1)C)C)S(=O)(=O)O.C(C)(C)(C)OC(NCCN1CC2CNCC(C1)O2)=O | InChI=1S/C13H25N3O3.C9H12O3S/c1-13(2,3)19-12(17)15-4-5-16-8-10-6-14-7-11(9-16)18-10;1-6-4-7(2)9(8(3)5-6)13(10,11)12/h10-11,14H,4-9H2,1-3H3,(H,15,17);4-5H,1-3H3,(H,10,11,12)
